US03966831
2 g of di-tert-butyl peroxide were dissolved in 100 g of β-bromoethyl bromobenzene and fed into the reactor described in Example 1 at a rate of 70 g/h together with superheated steam (20 g/h). The temperature of the reaction was maintained at 360°C. The products yielded bromostyrene at a conversion of 90%.

reactant | di-tert-butyl peroxide | 2 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | β-bromoethyl bromobenzene | 100 g | BrCCC1=C(C=CC=C1)Br | C8H8Br2
product | bromostyrene | BrC=CC1=CC=CC=C1 | C8H7Br
